US06140330
To a solution of chloroacetyl chloride (10.0 ml) in anhydrous 1,2-dichloroethane (250 ml) is added aluminum chloride (12 g) at room temperature, and the mixture is stirred for 20 minutes. To the mixture is added at once 2-(2-isopropylphenoxymethylcarbonylamino)benzothiazole (20 g), and the mixture is stirred at room temperature for one hour. The reaction mixture is poured into water, and thereto is added n-hexane. The precipitates are collected by filtration, washed with water, and dried to give 2-[2-isopropyl-4-(2-chloroacetyl)phenoxymethylcarbonylamino]benzothiazole (25.9 g).

reactant | chloroacetyl chloride | 10.0 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminum chloride | 12 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(2-isopropylphenoxymethylcarbonylamino)benzothiazole | 20 g | C(C)(C)C1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC=C1 | C18H18N2O2S
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
solvent | n-hexane | CCCCCC | C6H14
product | 2-[2-isopropyl-4-(2-chloroacetyl)phenoxymethylcarbonylamino]benzothiazole | 25.9 g | C(C)(C)C1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(CCl)=O | C20H19ClN2O3S
